US05622954
A stirring solution of 4.8 grams (0.016 mole) of 3-methyl-3-(4-chlorophenyl)-1-iodo-1-butene in 50 mL of tetrahydrofuran is cooled to about -90° C., and 6.9 mL (0.01 8 mole) of n-butyllithium (2.5M in hexane) is added dropwise at a rate to maintain the reaction mixture temperature at about -85° to -90° C. Upon completion of the addition, the reaction mixture is stirred at -90° C. for 30 minutes. After this time, a solution of 3.7 grams (0.019 mole) of trimethyltin chloride in 10 mL of tetrahydrofuran is added dropwise at a rate sufficient to maintain the reaction mixture temperature at about -85° to -90° C. Upon completion of addition, the reaction mixture is again stirred at -90° C. for 30 minutes. After this time, the reaction mixture is allowed to warm to ambient temperature where it is stirred for about 18 hours. The reaction mixture is then poured into 150 mL of water and extracted with 150 mL of diethyl ether. The ether extract is dried with magnesium sulfate and filtered. The filtrate is concentrated under reduced pressure, yielding 4.8 grams of 3-methyl-3-(4-chlorophenyl)-1-trimethylstannyl-1-butene. The NMR spectrum is consistent with the proposed structure.

reactant | 3-methyl-3-(4-chlorophenyl)-1-iodo-1-butene | 0.016 mole, 4.8 grams | CC(C=CI)(C)C1=CC=C(C=C1)Cl | C11H12ClI
reactant | n-butyllithium | 8 mole, 2.5M, 6.9 mL | C(CCC)[Li]
reactant | trimethyltin chloride | 0.019 mole, 3.7 grams | C[Sn](C)(C)Cl
reactant | water | 150 mL | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-methyl-3-(4-chlorophenyl)-1-trimethylstannyl-1-butene | 4.8 grams | CC(C=C[Sn](C)(C)C)(C)C1=CC=C(C=C1)Cl | InChI=1S/C11H12Cl.3CH3.Sn/c1-4-11(2,3)9-5-7-10(12)8-6-9;;;;/h1,4-8H,2-3H3;3*1H3;
